US06239142B1
N-(4-Chlorobenzyl)-4-hydroxy-2-(3-hydroxypropyl)thieno[2,3-b]pyridine-5-carboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-2-(3-hydroxy-1-propynyl)-thieno[2,3-b]pyridine-5-carboxamide (Example No.5) (0.300 g) in 1/1 CH2Cl2/CH3OH (70 mL) is hydrogenated over 10% Pd/C (90 mg) at 35 psi. After 3 h, an additional 90 mg of 10% Pd/C is added, and the solution is hydrogenated at 35 psi for 1 h. The reaction mixture is filtered through a Celite pad, and the filtrate is concentrated in vacuo. The resulting pale orange solid is purified via column chromatography (CH2Cl2:CH3OH; 98:2, 95:5). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield and off-white solid which is recrystallized from ethanol to yield 0.083 g (27%) of the title compound as a white, crystalline solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-2-(3-hydroxy-1-propynyl)-thieno[2,3-b]pyridine-5-carboxamide | 0.300 g | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)C#CCO)O)C=C1 | C18H13ClN2O3S
catalyst | Pd/C | 90 mg | [Pd] | Pd
catalyst | Pd/C | 90 mg | [Pd] | Pd
solvent | CH2Cl2 CH3OH | 70 mL | C(Cl)Cl.CO
product | N-(4-Chlorobenzyl)-4-hydroxy-2-(3-hydroxypropyl)thieno[2,3-b]pyridine-5-carboxamide | 0.083 g, 27% | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CCCO)O)C=C1 | C18H17ClN2O3S
